US05189036
1-(4-Fluorobenzoyl)-4-(2-oxohexyl)piperidine
1-(4-Fluorobenzoyl)piperidine-4-carboxylic acid (11.31 g, 45.0 mmol) is dissolved in methylene chloride (100 mL) at 0° C., and dimethylformamide (0.20 mL) and oxalyl chloride (5.8 g, 46 mmol) are added. The mixture is stirred 3 hr at room temperature, after which the solvent is evaporated; toluene (50 mL) is added and evaporated under reduced pressure. The toluene treatment is then repeated. In a second flask, copper (I) iodide (8.57 g, 45.0 mmol) is suspended in tetrahydrofuran (100 mL) at -78° C. under a nitrogen atmosphere. Methylithium (1.55M in ether, 29 mL, 45 mmol) is added, and the mixture is stirred at room temperature for 50 min. The mixture is cooled to -78° C., and pentylmagnesium bromide (2.0M in ether, 22.5 mL, 45 mmol) is added. The mixture is stirred for 15 min at -78° C., 1.5 hr at room temperature, and is cooled to -78° C. A solution of the first residue in tetrahydrofuran (30 mL) is added to the second mixture dropwise over 30 min, and the mixture is stirred 1 hr at -78° C., and then 3 hr at room temperature. The mixture is poured into saturated ammonium chloride (500 mL), sodium hydroxide (1 g) is added, and the mixture is stirred 16 hr. The layers are separated, the aqueous phase is extracted twice with methylene chloride, and the combined organics are washed twice with 1N sodium hydroxide, once with brine, dried over magnesium sulfate, and evaporated. The residue is chromatographed on silica gel eluting with hexane and ethyl acetate mixtures and recrystallized from ether-petroleum ether to afford the title compound.

reactant | 1-(4-Fluorobenzoyl)piperidine-4-carboxylic acid | 45.0 mmol, 11.31 g | FC1=CC=C(C(=O)N2CCC(CC2)C(=O)O)C=C1 | C13H14FNO3
reactant | oxalyl chloride | 46 mmol, 5.8 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pentylmagnesium bromide | 45 mmol, 2.0M, 22.5 mL | C(CCCC)[Mg]Br
reactant | ammonium chloride | 500 mL | [Cl-].[NH4+]
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
catalyst | copper (I) iodide | 45.0 mmol, 8.57 g | [Cu]I
solvent | dimethylformamide | 0.20 mL | CN(C=O)C | C3H7NO
product | 1-(4-Fluorobenzoyl)-4-(2-oxohexyl)piperidine | FC1=CC=C(C(=O)N2CCC(CC2)CC(CCCC)=O)C=C1 | C18H24FNO2
